US04654343
N-Methyl-N[3-(6-chloro-3-pyridazinyl)phenyl]acetamide
To a solution of 3.0 g of sodium hydride (50% dispersion in oil) in 300 ml of anhydrous tetrahydrofuran under argon was added 14.0 g of N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide. The solution was stirred for 0.5 hours, then 3.9 ml of methyl iodide was added. After stirring for 2 hours, the solution was poured onto 400 ml of water and extracted with 100 ml portions of dichloromethane. The combined extracts were dried, concentrated in vacuo and chromatographed on hydrated magnesium silicate with dichloromethane-methanol (98:2) as eluant. The fractions containing the desired product were combined, concentrated in vacuo and recrystalized from acetone-hexane to give 14.1 g of cream crystals, mp 109°-112° C.

reactant | sodium hydride | 3.0 g | [H-].[Na+]
reactant | N-[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 14.0 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)NC(C)=O | C12H10ClN3O
reactant | methyl iodide | 3.9 ml | CI | CH3I
reactant | water | 400 ml | O | H2O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-Methyl-N[3-(6-chloro-3-pyridazinyl)phenyl]acetamide | 14.1 g | CN(C(C)=O)C1=CC(=CC=C1)C=1N=NC(=CC1)Cl | C13H12ClN3O
